US08138175B2
B) 2-(3,4-Dichloro-phenylamino)-propionic acid
A mixture of 2-(3,4-dichloro-phenylamino)-propionic acid ethyl ester (10.0 g, 38.1 mmol) and LiOH (2.74 g, 114 mmol) in THF/MeOH/water 2:1:1 (100 mL) was heated at reflux for 3 h, then after cooling poured onto water and extracted with TBME. The organic phase was extracted twice with 1 M aq. sodium hydroxide solution. The aqueous phases were combined, acidified to pH 2-3 by addition of 37% aq. HCl solution, and extracted with EtOAc. The organic layer was dried (MgSO4), filtered, and evaporated to produce the title compound (7.32 g, 82%). Light yellow solid, MS: 233.9 (M+H)+.

reactant | 2-(3,4-dichloro-phenylamino)-propionic acid ethyl ester | 38.1 mmol, 10.0 g | C(C)OC(C(C)NC1=CC(=C(C=C1)Cl)Cl)=O | C11H13Cl2NO2
reactant | LiOH | 114 mmol, 2.74 g | [Li+].[OH-]
solvent | THF MeOH water | 100 mL | C1CCOC1.CO.O
product | 2-(3,4-Dichloro-phenylamino)-propionic acid | 7.32 g, 82% | ClC=1C=C(C=CC1Cl)NC(C(=O)O)C | C9H9Cl2NO2
